US05824691
To the stirring mixture of methyl 3-(cyanoacetyl)benzoate (2.0 g), triethylamine (1.4 ml), triethylamine hydrochloride (1.4 g) and 40% aqueous methylamine (0.93 ml) was added chloroacetone (0.86 ml) at ambient temperature and the mixture was stirred for 2 hours at the same temperature. To the reaction mixture was added ethyl acetate and the mixture was washed with water. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from ethanol to give methyl 3-(3-cyano-1,5-dimethylpyrrol-2-yl)benzoate (1.6 g).

reactant | methyl 3-(cyanoacetyl)benzoate | 2.0 g | C(#N)CC(=O)C=1C=C(C(=O)OC)C=CC1 | C11H9NO3
reactant | triethylamine hydrochloride | 1.4 g | Cl.C(C)N(CC)CC
reactant | methylamine | 0.93 ml | CN | CH5N
reactant | chloroacetone | 0.86 ml | ClCC(C)=O | C3H5ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
product | methyl 3-(3-cyano-1,5-dimethylpyrrol-2-yl)benzoate | 1.6 g | C(#N)C1=C(N(C(=C1)C)C)C=1C=C(C(=O)OC)C=CC1 | C15H14N2O2
